US06617346B1
Hydrogen chloride gas was passed through a solution of 3,5-bis-hydroxymethyl-benzonitrile (50 mg, 0.23 mmol) in anhydrous ethanol (100 mL) at room temperature. After 5 h, hydrogen chloride gas was stopped. The solvent was evaporated in vacuo and the residue was triturated in diethyl ether to afford ethyl 3,5-bis-hydroxymethyl-benzimidate hydrochloride (52 mg, 92%). It was used without further purification.

reactant | Hydrogen chloride | Cl | ClH
reactant | 3,5-bis-hydroxymethyl-benzonitrile | 0.23 mmol, 50 mg | OCC=1C=C(C#N)C=C(C1)CO | C9H9NO2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | ethyl 3,5-bis-hydroxymethyl-benzimidate hydrochloride | 52 mg, 92% | Cl.OCC=1C=C(C(OCC)=N)C=C(C1)CO | InChI=1S/C11H15NO3.ClH/c1-2-15-11(12)10-4-8(6-13)3-9(5-10)7-14;/h3-5,12-14H,2,6-7H2,1H3;1H
